US09233956B2
Step A: N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}1,3-thiazole-2-sulfonamide
Following a procedure analogous to the procedure described in Intermediate 14 using 3-(5-(2-chloropyrimidin-4-yl)-2-isopropylthiazol-4-yl)-2-fluoroaniline (2.5 g, 7.2 mmol) and thiazole-2-sulfonyl chloride (1.45 g, 7.88 mmol) the title compound of Step A was obtained (1.05 g, 30.0% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 11.01 (br. s., 2H), 8.58 (d, J=5.2 Hz, 1H), 8.09 (d, J=3.2 Hz, 1H), 8.01 (d, J=2.8 Hz, 1H), 7.49-7.40 (m, 1H), 7.31-7.25 (m, 1H), 6.88 (d, J=5.6 Hz, 1H), 3.35-3.30 (m, 1H), 1.36 (d, J=6.8 Hz, 6H). MS (ES+): 496 [M+H]+.

reactant | 3-(5-(2-chloropyrimidin-4-yl)-2-isopropylthiazol-4-yl)-2-fluoroaniline | 7.2 mmol, 2.5 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C(=C(N)C=CC1)F | C16H14ClFN4S
reactant | thiazole-2-sulfonyl chloride | 7.88 mmol, 1.45 g | S1C(=NC=C1)S(=O)(=O)Cl | C3H2ClNO2S2
product | N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}1,3-thiazole-2-sulfonamide | 30.0% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C=1SC=CN1)F | C19H15ClFN5O2S3
